US09227951B2
To a 2-dram vial containing benzofuran-2-carboxylic acid (0.0243 g, 0.150 mmol) was added HATU (0.057 g, 0.150 mmol.) in DMF (1.0 mL), and TEA (0.120 mL, 0.858 mmol). After shaking at rt for 30 min, (R)-ethyl 3-(1-aminoethyl)isoxazole-5-carboxylate hydrochloride (0.032 g, 0.143 mmol) was added. The mixture was shaken at rt for 16 h. The solvent was evaporated. To the residue was added water (1.0 mL) and DCE (3 mL). After separation, the aqueous layer was extracted with DCE (3 mL). The combined organic phases were concentrated to give (R)-ethyl 3-(1-(benzofuran-2-carboxamido)ethyl)isoxazole-5-carboxylate as a solid residue.

reactant | benzofuran-2-carboxylic acid | 0.150 mmol, 0.0243 g | O1C(=CC2=C1C=CC=C2)C(=O)O | C9H6O3
reactant | HATU | 0.150 mmol, 0.057 g | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
reactant | (R)-ethyl 3-(1-aminoethyl)isoxazole-5-carboxylate hydrochloride | 0.143 mmol, 0.032 g | Cl.N[C@H](C)C1=NOC(=C1)C(=O)OCC
solvent | DMF | 1.0 mL | CN(C)C=O | C3H7NO
product | (R)-ethyl 3-(1-(benzofuran-2-carboxamido)ethyl)isoxazole-5-carboxylate | O1C(=CC2=C1C=CC=C2)C(=O)N[C@H](C)C2=NOC(=C2)C(=O)OCC | C17H16N2O5
